US08217035B2
Synthesis of 7-methylthio-3-nitroquinoline
To a refluxing mixture of 3-[(3-methylthiophenyl)amino]-2-nitroprop-2-enal (2.3 g, 9.6 mmol) and the HCl salt of 3-methylthiophenylamine (2.7 g, 19.3 mmol) in acetic acid (25 mL) was added thiophenol (0.2 g, 1.9 mmol). After being refluxed for 18 h, the mixture was cooled to room temperature and the acetic acid was removed under reduced pressure. To the remaining dark colored solid EtOAc (50 mL) was added with stirring. Filtration gave a yellow/green solid and a dark filtrate. The product crystallized from the EtOAc solution upon standing. Filtration and rinsing with cold EtOAc gave 330 mg crystalline product. The yellow/green solid was washed with 3×250 mL portions of dichloromethane. The dichloromethane washes were concentrated to give an additional 150 mg of product (23%). LC/MS (m/z): 221.1 (MH+), Rt 2.54 minutes.

reactant | 3-[(3-methylthiophenyl)amino]-2-nitroprop-2-enal | 9.6 mmol, 2.3 g | CSC=1C=C(C=CC1)NC=C(C=O)[N+](=O)[O-] | C10H10N2O3S
reactant | HCl | Cl | ClH
reactant | 3-methylthiophenylamine | 19.3 mmol, 2.7 g | CSC=1C=C(C=CC1)N | C7H9NS
reactant | thiophenol | 1.9 mmol, 0.2 g | C1(=CC=CC=C1)S | C6H6S
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 7-methylthio-3-nitroquinoline | 330 mg | CSC1=CC=C2C=C(C=NC2=C1)[N+](=O)[O-] | C10H8N2O2S
